US03954776
A mixture of 1.9 g of 2-(2-thienylmethyl)phenol, 2.3 g of 1-chloro-3-(2,6-dimethylpiperidino)-2-propanol, 1.4 g of anhydrous potassium carbonate, 30 ml of acetone and 20 ml of dimethylformamide is refluxed with stirring for 20 hours. The insoluble matter is then filtered off, and the filtrate is concentrated. To the residue is added ether, and the ethereal solution is extracted with two 50 ml portions of 10% hydrochloric acid. The aqueous layer is made alkaline with sodium hydroxide, and the separated oil is extracted twice with ether. The ether layer is dried over anhydrous potassium carbonate, and the solvent is removed. The residue is purified by column chromatography and converted into the hydrochloride in the same manner as in above method (a) to give 1.5 g of 1-(2,6-dimethylpiperidino)-3-[2-(2-thienylmethyl)phenoxy]-2-propanol hydrochloride, melting at 152°-153°C.

reactant | 2-(2-thienylmethyl)phenol | 1.9 g | S1C(=CC=C1)CC1=C(C=CC=C1)O | C11H10OS
reactant | 1-chloro-3-(2,6-dimethylpiperidino)-2-propanol | 2.3 g | ClCC(CN1C(CCCC1C)C)O | C10H20ClNO
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(2,6-dimethylpiperidino)-3-[2-(2-thienylmethyl)phenoxy]-2-propanol hydrochloride | 1.5 g | Cl.CC1N(C(CCC1)C)CC(COC1=C(C=CC=C1)CC=1SC=CC1)O | InChI=1S/C21H29NO2S.ClH/c1-16-7-5-8-17(2)22(16)14-19(23)15-24-21-11-4-3-9-18(21)13-20-10-6-12-25-20;/h3-4,6,9-12,16-17,19,23H,5,7-8,13-15H2,1-2H3;1H
